### PR TITLE
feat: BitVec.toInt BitVec.signExtend

### PR DESCRIPTION
**Pull request by bollu**
This PR adds toInt theorems for BitVec.signExtend.

If the current width `w` is larger than the extended width `v`,
then the value when interpreted as an integer is truncated,
and we compute a modulo by `2^v`.

```lean
theorem toInt_signExtend_of_le (x : BitVec w) (hv : v ≤ w) :
    (x.signExtend v).toInt = Int.bmod (x.toNat) (2^v)
```

Co-authored-by: Siddharth Bhat <siddu.druid@gmail.com>
Co-authored-by: Harun Khan <harun19@stanford.edu>

Stacked on top of #6155

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1578,6 +1582,79 @@ theorem signExtend_eq_setWidth_of_lt (x : BitVec w) {v : Nat} (hv : v ≤ w):
...
+  <;> simp [h, Nat.mod_eq_of_lt (Nat.lt_of_lt_of_le x.isLt H)]
+  omega
+
+/-
+If the current width `w` is larger than the extended width `v`,
+then the value when interpreted as an integer is truncated,
+and we compute a modulo by `2^v`.
+-/
+theorem toInt_signExtend_of_le {x : BitVec w} (hv : v ≤ w) :
+    (x.signExtend v).toInt = Int.bmod x.toNat (2^v) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:1644]: As with the other PR, I think this lemma is true unconditionally, because when `v > w`, `Int.bmod x.toNat (2^v) = x.toNat`.

(That presumably deserves a separate lemma about `bmod`.)

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:1644]: Not sure you saw, but we do have it below:

```lean
theorem toInt_signExtend (x : BitVec w) :
    (x.signExtend v).toInt = Int.bmod x.toNat (2^(min v w)) := by
```

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:1644]: I don't see how this would hold with `Int.bmod x.toNat 2^v` for `v > w`, since we do need to take the value modulo `2^w` for it to be the 2s-complement interpretation? What am I missing?

**Comment by bollu** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:1644]: I am saying that for `v > w`, `x : BitVec w`, there is just an identity `Int.bmod x.toNat (2^v) = x.toNat`, since `x.Nat < 2^w  ≤ 2^(v-1)`.

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:1644]: Ah, I see my mistake, I read the previous theorem as having `.toNat` on the RHS, but it is `.toInt`.
